US07910595B2
A mixture of 4-chloro-3-nitrobenzoyl chloride was reacted with 4-Bromo-benzylamine to produce N-(4-Bromo-benzyl)-4-chloro-3-nitro-benzamide according to the procedure of Example 10A, which was treated sequentially using the procedures from Examples 22A and 22B to provide the title product.

reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | 4-Bromo-benzylamine | BrC1=CC=C(CN)C=C1 | C7H8BrN
product | N-(4-Bromo-benzyl)-4-chloro-3-nitro-benzamide | BrC1=CC=C(CNC(C2=CC(=C(C=C2)Cl)[N+](=O)[O-])=O)C=C1 | C14H10BrClN2O3
